US07691882B2
(4-[1,3]Dioxolane-2-yl-benzyl)-phenyl-amine
To a tetrahydrofuran (200 mL) solution of 4-[1,3]dioxolane-2-ylbenzaldehyde (6.32 g, 35.5 mmol) described in Manufacturing Example 73-1-1, aniline (2.08 mL, 35.5 mmol) and acetic acid (10.2 mL, 178 mmol) was added sodium triacetoxyborohydride (15 g, 71 mmol). This mixture was stirred for 1 hour at room temperature. This mixture was partitioned into ethyl acetate and water. The organic layer was separated, washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by silica gel column chromatography (heptane:ethyl acetate=4:1) to obtain the title compound (4.16 g, 46%).

reactant | 4-[1,3]dioxolane-2-ylbenzaldehyde | 35.5 mmol, 6.32 g | O1C(OCC1)C1=CC=C(C=O)C=C1 | C10H10O3
reactant | aniline | 35.5 mmol, 2.08 mL | NC1=CC=CC=C1 | C6H7N
reactant | acetic acid | 178 mmol, 10.2 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 71 mmol, 15 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | (4-[1,3]Dioxolane-2-yl-benzyl)-phenyl-amine | 4.16 g, 46% | O1C(OCC1)C1=CC=C(CNC2=CC=CC=C2)C=C1 | C16H17NO2
